US04902700
Synthesis of 2-[trans-3-(3-(5-tetrazolyl)propylamino)styryl]benzothiazole (compound No. 424)
To 5 ml of dimethylformamide were added 390 mg of sodium azide and 638 mg of 2-[trans-3-(3-cyanopropylamino)styryl]benzothiazole, and the mixture was heated to 120° C. for 7 hours. After cooled to room temperature, the mixture was extracted with ethyl acetate, dried over anhydrous magnesium sulfate and the solvent was evaporation under reduced pressure. The concentrate was purified through silica gel column chromatography by use of ethyl acetate to obtain 250 mg (yield 35%) of the title compound.

reactant | sodium azide | 390 mg | [N-]=[N+]=[N-].[Na+]
reactant | 2-[trans-3-(3-cyanopropylamino)styryl]benzothiazole | 638 mg | C(#N)CCCNC=1C=C(/C=C/C=2SC3=C(N2)C=CC=C3)C=CC1 | C19H17N3S
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-[trans-3-(3-(5-tetrazolyl)propylamino)styryl]benzothiazole | 250 mg, yield 35% | N1N=NN=C1CCCNC=1C=C(/C=C/C=2SC3=C(N2)C=CC=C3)C=CC1 | C19H18N6S
